US08729095B2
To a N,N-dimethylformamide solution (23 ml) of tert-butyl 4-[(5-chloro-2-hydroxyphenyl)amino]piperidine-1-carboxylate (1.15 g) were added at room temperature cesium carbonate (5.73 g) and methyl 2-bromo-2-methylpropanoate (1.27 g), followed by stirring at 140° C. for 2 hours. After the reaction solution was cooled to room temperature, water was added, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford tert-butyl 4-(6-chloro-2,2-dimethyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)piperidine-1-carboxylate.

reactant | N,N-dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
reactant | tert-butyl 4-[(5-chloro-2-hydroxyphenyl)amino]piperidine-1-carboxylate | 1.15 g | ClC=1C=CC(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)O | C16H23ClN2O3
reactant | cesium carbonate | 5.73 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-bromo-2-methylpropanoate | 1.27 g | BrC(C(=O)OC)(C)C | C5H9BrO2
solvent | water | O | H2O
product | tert-butyl 4-(6-chloro-2,2-dimethyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)piperidine-1-carboxylate | ClC=1C=CC2=C(N(C(C(O2)(C)C)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C1 | C20H27ClN2O4
